US04630896
The resulting oil (11.0 g) of p-[4-(methoxymethylidene)cyclohexyl]benzonitrile was heated to boiling for 1 hour in a mixture of 200 ml of tetrahydrofuran and 50 ml of 2N hydrochloric acid. The mixture was subsequently poured on to 500 ml of ice/water and extracted three times with 200 ml of diethyl ether each time. The organic phases were washed neutral with water, dried over sodium sulphate and concentrated, thereby obtaining 10.0 g of colourless and in part solid 4-(p-cyanophenyl)cyclohexanecarboxaldehyde (cis/trans ratio about 1:3).

reactant | p-[4-(methoxymethylidene)cyclohexyl]benzonitrile | 11.0 g | COC=C1CCC(CC1)C1=CC=C(C#N)C=C1 | C15H17NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2N, 50 ml | Cl | ClH
product | 4-(p-cyanophenyl)cyclohexanecarboxaldehyde | C(#N)C1=CC=C(C=C1)C1CCC(CC1)C=O | C14H15NO
